US06172067B2
1-[1-(1-Phenylcyclohepten-1-yl)-4-piperidinyl]-2-(1-piperazinyl)-1H-benzimidazole
This was prepared according to the procedure described in Example 67 using 1-N-t-butoxycarbonylpiperazine instead of 4-t-butoxycarbonylaminopiperidine, and 2-chloro-1-[1-(1-phenyl-4-cyclohepten-1-yl)-4-piperidinyl]benzimidazole as starting material which was prepared in Preparation 9. Overall yield was 40.3%. HCl salt was amorphous solid.

reactant | 1-N-t-butoxycarbonylpiperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 2-chloro-1-[1-(1-phenyl-4-cyclohepten-1-yl)-4-piperidinyl]benzimidazole | ClC1=NC2=C(N1C1CCN(CC1)C1(CCC=CCC1)C1=CC=CC=C1)C=CC=C2 | C25H28ClN3
reactant | HCl | Cl | ClH
product | 1-[1-(1-Phenylcyclohepten-1-yl)-4-piperidinyl]-2-(1-piperazinyl)-1H-benzimidazole | yield was 40.3% | C1(=CC=CC=C1)C1(C=CCCCC1)N1CCC(CC1)N1C(=NC2=C1C=CC=C2)N2CCNCC2 | C29H37N5
